US04644041
A 0.3% solution of 0.2 g of poly(isobutylene-co-isoprene) was prepared in 99.7% of a 1:2 mixture of 2,2,4-trimethylpentane and CCl4. The solution was purged with N2, heated to 75 C., 0.09 g of azobisisobutyronitrile was added, followed by 5 g of methylmethacrylate, added over a period of one half hour. The polymerization was carried out for 8 hours with constant mechanical stirring, under a N2 atmosphere. After cooling the reaction mixture to room temperature, the cleaning procedure used was identical to that of Example 1.

reactant | 2,2,4-trimethylpentane | CC(C)(CC(C)C)C | C8H18
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | poly(isobutylene-co-isoprene) | 0.2 g | CC(=C)C.CC(=C)C=C | InChI=1S/C5H8.C4H8/c1-4-5(2)3;1-4(2)3/h4H,1-2H2,3H3;1H2,2-3H3
